US06831175B2
6-(5-bromopyridin-3-yl)isoquinoline
A solution of 3,5-dibromopyridine (284 mg, 1.2 mmol), Pd2(dba)3 (110 mg, 0.12 mmol) and tri-o-tolylphosphine (110 mg, 0.36 mmol) in DMF (15 mL) was treated with Example 27A (500 mg, 1.2 mmol) and triethylamine (500 μL, 3.6 mmol), purged with nitrogen, heated to 70° C. for 6 hours, cooled to room temperature, treated with ethyl acetate (100 mL), washed with brine, dried (MgSO4), filtered, and concentrated. The residual oil was purified by flash column chromatography on silica gel with ethyl acetate to provide the desired product (110 mg, 32%). MS (APCI) m/e 285, 287 (M+H)+.

reactant | 3,5-dibromopyridine | 1.2 mmol, 284 mg | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | tri-o-tolylphosphine | 0.36 mmol, 110 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 3.6 mmol, 500 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Pd2(dba)3 | 0.12 mmol, 110 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-(5-bromopyridin-3-yl)isoquinoline | 110 mg, 32% | BrC=1C=C(C=NC1)C=1C=C2C=CN=CC2=CC1 | C14H9BrN2
